US08076345B2
2-(4-((6-Methoxypyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile
To a mixture of 5-bromo-2-(4-((6-methoxypyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile (55 mg, 0.12 mmol), methylboronic acid (18 mg, 0.30 mmol), potassium phosphate (90.6 mg, 0.427 mmol), tricyclohexylphosphine (6.8 mg, 0.024 mmol), toluene (3 mL), and water (0.2 mL) under argon was added palladium acetate (2.7 mg, 0.012 mmol). The mixture was heated at 100° C. for 3 h and then cooled to rt. The mixture was filtered through Celite and the filter cake was washed with EtOAc. The filtrate was concentrated and the residue was purified by preparative HPLC to yield an off-white solid.

reactant | 5-bromo-2-(4-((6-methoxypyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 0.12 mmol, 55 mg | BrC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)OC)CC1 | C21H19BrN6O
reactant | methylboronic acid | 0.30 mmol, 18 mg | CB(O)O | CH5BO2
reactant | potassium phosphate | 0.427 mmol, 90.6 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 0.024 mmol, 6.8 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | palladium acetate | 0.012 mmol, 2.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.2 mL | O | H2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-((6-Methoxypyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | COC1=CC=C(C=N1)CNC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C22H22N6O
